US03966801
A mixture of 0.05 moles of ethyl α-hydroxy-γ-(3-nitro-4-cyclohexylphenyl)butyrate in 100 ml. methanol containing 0.05 mole citric acid and 1.5 g. of 5% palladium-on-carbon is shaken with hydrogen at 2 atm. pressure and 27°C until 3 moles of hydrogen are absorbed. The mixture is filtered, washed with methanol and the filtrate concentrated in vacuo to obtain ethyl α-hydroxy-γ-(3-amino-4-cyclohexylphenyl)butyrate, isolated as the citrate salt.

reactant | ethyl α-hydroxy-γ-(3-nitro-4-cyclohexylphenyl)butyrate | 0.05 moles | OC(C(=O)OCC)CCC1=CC(=C(C=C1)C1CCCCC1)[N+](=O)[O-] | C18H25NO5
reactant | methanol | 0.05 mole | CO | CH4O
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 3 moles | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
product | ethyl α-hydroxy-γ-(3-amino-4-cyclohexylphenyl)butyrate | OC(C(=O)OCC)CCC1=CC(=C(C=C1)C1CCCCC1)N | C18H27NO3
